2173-01-27 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Required 120mg IV Valium o/n
   CXR done was negative
   RUQ this AM
   3 Liters since arrival
   CK 364
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2173-1-27**] 04:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-27**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**75**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 86 (78 - 102) bpm
   BP: 164/89(108) {113/80(87) - 176/92(126)} mmHg
   RR: 21 (18 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    342 mL
                                                                    891 mL
   PO:
             TF:
   IVF:
                                                                    342 mL
                                                                    891 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                  1,700 mL
   Urine:
                                                                  1,600 mL
                                                                  1,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,258 mL
                                                                   -809 mL
   Respiratory support
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: mildly sedated
   Eyes / Conjunctiva: Eyes with purulent drainage b/l
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : expiratory )
   Abdominal: Soft, Non-tender, moderately distended, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis
   Skin:  Rash in groin
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   109 K/uL
   12.6 g/dL
   85 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.4 mEq/L
   9 mg/dL
   107 mEq/L
   143 mEq/L
   38.0 %
   10.3 K/uL
        [image002.jpg] Ammonia 97
   CK364
   CXR: negative
   RUQ U/S:
                             [**2173-1-27**]  04:06 AM
   WBC
   10.3
   Hct
   38.0
   Plt
   109
   Cr
   0.7
   Glucose
   85
   Other labs: PT / PTT / INR:12.6/29.1/1.1, CK / CKMB / Troponin-T:364//,
   ALT / AST:113/267, Alk Phos / T Bili:281/4.7, Albumin:3.7 g/dL,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   61 yo M with EtOH abuse here with sx c/w withdrawal requiring frequent
   CIWA monitoring and valium dosing. Also with transaminitis, unknown
   baseline.
   .
   # MS Changes: Presumed secondary to EtOH withdrawal on exam; last drink
   was 6 days ago; no history of DTs. However etiology could also be [**2-2**]
   encephalopathy (give elevated ammonia 76) vs infectious etiology.
   (although no elevation in wbc, afebrile)
   - CIWA q15min and then q1 hour, valium 10mg iv if >10, convert to po
   when possible
   - check thiamine, folate, B12 levels, will replete
   - Aggressive IVF
   - Thiamine, folate, multivitamin
   - Monitor calcium, magnesium, phosphorus levels and replete prn
   - Monitor ammonia level daily
   - CXR negative, U/A negative
   -RUQ This AM
   .
   # Transaminitis/Hyperbilirubinemia: Likely [**2-2**] EtOH hepatitis
   - trend
   - Coags wnl, albumin ok
   - RUQ this AM
   #Thrombocytopenia- Presumed [**2-2**] hypersplenism
   -Trend for now
   .
   #Blepharitis- Will treat with erythromycin ointment QID
   .
   #Fungal Groin Infection- Treat with Lotrimin [**Hospital1 **] for now
   - presumed [**2-2**] poor hygeine
   .
   #. Macrocytosis: MCV 102, no anemia, likely nutritional
   - w/u as above
   .
   # FEN: maintenance IVF while NPO/ replete lytes prn / NPO for now  .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2173-1-26**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-01-27 09:36:00 Physician Attending Progress Note
Chief Complaint: Alcohol withdrawal, lethargy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Transfered from detox facility with increasing facility and tremors day
   +6 from last drink.
   24 Hour Events:
   Required 120 of iv valium was receiving it q1hour.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2173-1-27**] 08:13 AM
   Heparin Sodium (Prophylaxis) - [**2173-1-27**] 08:53 AM
   Other medications:
   heparin 5000U s/c tid, thimain, folate, clotrimazole cream, MVI,
   erythromcyin ou.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-27**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**75**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 94 (78 - 102) bpm
   BP: 168/85(102) {113/80(87) - 176/92(126)} mmHg
   RR: 19 (18 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    342 mL
                                                                  1,445 mL
   PO:
             TF:
   IVF:
                                                                    342 mL
                                                                  1,445 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                  2,260 mL
   Urine:
                                                                  1,600 mL
                                                                  2,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,258 mL
                                                                   -815 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Rhonchorous: anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, multiple bruises
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): hospital, [**2173**], [****], Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   12.6 g/dL
   109 K/uL
   85 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.4 mEq/L
   9 mg/dL
   107 mEq/L
   143 mEq/L
   38.0 %
   10.3 K/uL
        [image002.jpg]
                             [**2173-1-27**]  04:06 AM
   WBC
   10.3
   Hct
   38.0
   Plt
   109
   Cr
   0.7
   Glucose
   85
   Other labs: PT / PTT / INR:12.6/29.1/1.1, CK / CKMB / Troponin-T:364//,
   ALT / AST:113/267, Alk Phos / T Bili:281/4.7, Albumin:3.7 g/dL,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR: clear
   Microbiology: cultures pending
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES):
   appropriately managed currently, sleepy but easily arousable and
   following commands appropriately. s/p volume resuscitation in the ED,.
   Will start on maintenance IVF.
 Transaminitis and elevated GGT: f/u RUQ ultrasound
Blepharitis: on erythromycin ointment
   rest of plan per HO note.
   ICU Care
   Nutrition:
   Comments: NPO, D51/2NS at 75cc/hr
   Glycemic Control:
   Lines:
   18 Gauge - [**2173-1-26**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as above with the following modifications/emphasis:
   See above for full presentation.  Overnight, the patient required
   significant dosages of valium to for presumed alcohol withdrawal.
   Doing better this morning.
   T 37.1  P 93  BP 177/114  RR 23  Sat: 100%
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: mild tremors; right knee contusion/tenderness
   Labs: As above
   Assessment:
   1) Alchohol Withdrawal
   2) Right knee/leg contusion
   Plan:
   1) Continue CIWA scale
   2) Maintain adequate hydration with IVFS
   3) Monitor electrolytes
   4) Intravenous thiamine/folate/vitamin C
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2173-1-27**] 18:26 ------

2173-01-28 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2173-1-27**] 08:14 AM
   abd
   [**1-27**]
   - some disorientation, can be redirected
   - 2mg IV Diazepam overnight / 12mg since 8am yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-1-27**] 04:00 PM
   Diazepam (Valium) - [**2173-1-27**] 07:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-28**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**75**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 111 (69 - 111) bpm
   BP: 159/94(110) {147/70(88) - 177/128(138)} mmHg
   RR: 21 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  3,937 mL
                  PO:
                  TF:
   IVF:
                                                                  3,937 mL
   Blood products:
   Total out:
                                                                  4,445 mL
                                                                    250 mL
   Urine:
                                                                  4,445 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -508 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   128 K/uL
   12.4 g/dL
   114 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.6 mEq/L
   7 mg/dL
   106 mEq/L
   141 mEq/L
   37.5 %
   9.6 K/uL
        [image002.jpg]
                             [**2173-1-27**]  04:06 AM
                             [**2173-1-28**]  04:22 AM
   WBC
   10.3
   9.6
   Hct
   38.0
   37.5
   Plt
   109
   128
   Cr
   0.7
   0.6
   Glucose
   85
   114
   Other labs: PT / PTT / INR:12.5/35.0/1.1, CK / CKMB / Troponin-T:364//,
   ALT / AST:115/248, Alk Phos / T Bili:295/5.0, Albumin:3.7 g/dL, LDH:428
   IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   61 yo M with EtOH abuse here with sx c/w withdrawal requiring frequent
   CIWA monitoring and valium dosing. Also with transaminitis, unknown
   baseline.
   .
   # MS Changes: Now starting to improve. Presumed secondary to EtOH
   withdrawal on exam; infectious workup negative so far.
   - Continue CIWA q2 hours; has only required 12mg valium since 8am [**1-27**]
   and 2mg overnight; can likely change to q4 hours
   - Thiamine, folate, multivitamin
   - Monitor calcium, magnesium, phosphorus levels and replete prn
   - CXR negative, U/A negative
   -RUQ --
   .
   # Transaminitis/Hyperbilirubinemia: Likely [**2-2**] EtOH hepatitis
   - Coags wnl, albumin ok
   #Thrombocytopenia- Presumed [**2-2**] hypersplenism
   -starting to improve since admission
   .
   #Blepharitis- Continue  erythromycin ointment QID
   .
   #Fungal Groin Infection-  Continue Lotrimin [**Hospital1 **]
   - presumed [**2-2**] poor hygeine
   . .
   # FEN: advance diet today
 THROMBOCYTOPENIA, ACUTE
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   ICU Care
   Nutrition: Advance diet today
   Glycemic Control:
   Lines:
   18 Gauge - [**2173-1-27**] 09:00 AM
   20 Gauge - [**2173-1-27**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: none needed
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor possible

2173-01-28 11:10:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   RUQ ultrasound read pending. Valium requirement much decreased.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2173-1-27**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2173-1-28**] 08:00 AM
   Other medications:
   haldol, phos, heparin s/c, erythromycin, clotrimazole, folic acid,
   thiamine, MVI.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-28**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**75**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 87 (69 - 111) bpm
   BP: 122/72(82) {122/49(70) - 177/128(138)} mmHg
   RR: 19 (13 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,937 mL
                  PO:
                  TF:
   IVF:
                                                                  3,937 mL
   Blood products:
   Total out:
                                                                  4,445 mL
                                                                    350 mL
   Urine:
                                                                  4,445 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -508 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress, Thin, Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   128 K/uL
   114 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.6 mEq/L
   7 mg/dL
   106 mEq/L
   141 mEq/L
   37.5 %
   9.6 K/uL
        [image002.jpg]
                             [**2173-1-27**]  04:06 AM
                             [**2173-1-28**]  04:22 AM
   WBC
   10.3
   9.6
   Hct
   38.0
   37.5
   Plt
   109
   128
   Cr
   0.7
   0.6
   Glucose
   85
   114
   Other labs: PT / PTT / INR:12.5/35.0/1.1, CK / CKMB / Troponin-T:364//,
   ALT / AST:115/248, Alk Phos / T Bili:295/5.0, Albumin:3.7 g/dL, LDH:428
   IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Microbiology: micro negative to date
   Assessment and Plan
 INEFFECTIVE COPING: social work and psychiatry consult for
   depression.
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES):
   decreased frequency of CIWA to q4hours, and change to po valium, ok to
   transfer to the floor.
Knee hematoma: no knee pain with active range of motion, will monitor,
   need plain film before discharge.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2173-1-27**] 09:00 AM
   20 Gauge - [**2173-1-27**] 02:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as above with the following modifications/emphasis:
   Overnight, no new problems
 his [**Name2 (NI) **] requirements have decreased
   T 37   P 87  BP 122/72  RR 19 SpO2:98%
   HEENT: NC AT
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: trace edema
   Neuro: Awake, responsive; no significant tremors at this time
   Labs: As above
   Assessment:
   1)       Alcohol Withdrawal
 improved
   2)       Elevated LFTs
 likely cirrhosis/etoh
   3)       Knee/leg contusion
   Plan:
   1)       Continue CIWA and decease [**Name2 (NI) **] as tolerated
   2)       Radiograph of right leg/knee rule out fib fracture or tib
   plateau fracture
   3)       If remains stable next 6-12 hours, will discharge to floor
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2173-1-28**] 17:39 ------